US05912244
6-(3-Hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (2.2 g) (see Preparation 9) was dissolved in dry dimethylformamide (4 ml) and imidazole (1.1 g) and tert-butyidimethylsilyl chloride (1.2 g) were added. The flask was fitted with a calcium chloride drying tube and the mixture was stirred at 40° C. for one hour. Water was added and the mixture was extracted with diethyl ether. The organic extract was washed with aqueous sodium hydrogen carbonate solution (×2), dried (anhydrous sodium sulphate), the solvent removed under reduced pressure and the crude product chromatographed on silica using (4:1 hexane: dichloromethane as the eluent to yield 6-(3-tert-butyldimethylsilyloxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran (2.84 g) as an oil.

reactant | 6-(3-Hydroxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 2.2 g | OC=1C=C(C=CC1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C18H18O2S
reactant | imidazole | 1.1 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyidimethylsilyl chloride | 1.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 6-(3-tert-butyldimethylsilyloxyphenyl)thio-2,2,3-trimethyl-2H-benzo[b]pyran | 2.84 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)SC1=CC2=C(OC(C(=C2)C)(C)C)C=C1 | C24H32O2SSi
